US06358945B1
To 2,5-dibromopyridine (500 mg, 2.1 mmol) and 3-cyano-1-propanol (270 mg, 3.1 mmol) in DMSO (2 mL) was added 1M sodium hexamethyldisilazide (2.1 mL, 2.1 mmol). The reaction was stirred at room temperature overnight. EtOAc was added to the reaction and the mixture was washed with water (2×10 mL). The EtOAc fraction was dried over anhydrous sodium sulfate and evaporated on a rotary evaporator. The crude product was purified by flash column chromatography over silica gel using 40%EtOAc/hexanes to give 200 mg of 5-bromo-2-cyanopropyloxypyridine as a pale yellow solid (39.3%).

reactant | 2,5-dibromopyridine | 2.1 mmol, 500 mg | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 3-cyano-1-propanol | 3.1 mmol, 270 mg | C(#N)CCCO | C4H7NO
reactant | sodium hexamethyldisilazide | 2.1 mmol, 1M, 2.1 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 5-bromo-2-cyanopropyloxypyridine | 200 mg, 39.3% | BrC=1C=CC(=NC1)OCC(C)C#N | C9H9BrN2O
